US09255110B2
A solution of methylmagnesium iodide (3.0 M in Et2O, 10 mL, 30 mmol) was added, under nitrogen atmosphere, to a solution of 3-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 10.0 mmol) in tetrahydrofuran (15 mL) at 0° C. and the resulting mixture was stirred at room temperature for 1 hour. A second aliquot of tetrahydrofuran (55 mL) was then added. The reaction mixture was quenched by addition of a saturated aqueous solution of ammonium chloride until dissolution of the solids. The volatiles were evaporated under reduced pressure and the residue was extracted twice with dichloromethane. The combined organic extracts were washed with a saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 2.149 of 3-(1-hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester. To a portion of this material (875 mg, 4.1 mmol) was added a solution of trifluoroacetic acid (5% in DCM, 10 mL) and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was then evaporated under reduced pressure to give 1-pyrrolidin-3-yl-ethanol trifluoroacetate which was used without further purifications.

reactant | methylmagnesium iodide | 30 mmol, 3.0 M, 10 mL | C[Mg]I
reactant | 3-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.0 mmol, 2 g | C(C)(C)(C)OC(=O)N1CC(CC1)C=O | C10H17NO3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
product | 3-(1-hydroxy-ethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(C)O | C11H21NO3
